US07022707B2
Piperazine-1-carboxylic acid 4-benzyloxy-benzyl ester:
A solution of 274 mg (0.5 mmol) piperazine-1,4-dicarboxylic acid 4-benzyloxy-benzyl ester 9H-fluoren-9-ylmethyl ester in 13 ml morpholine was stirred at rt for 1 h. Then 23 ml of chilled water was added, the suspension filtered and the filtrate extracted with TBME. The organic layer was washed with water, brine, dried over Na2SO4 and evaporated: 54 mg piperazine-1-carboxylic acid 4-benzyloxy-benzyl ester as light yellow, waxy solid. MIR: 3300 cm−1, 1688 cm−1. 1H-NMR (CDCl3): 1.77 br, 1H; 2.75–2.90 m, 4H and 3.40–3.50 m, 4H; 5.06 s and 5.07 s, 4H; 6.96 d, J=8.8 Hz, 2H and 7.28–7.44 m, 7H. MS (ISP): 327.3 (M+H)+.

reactant | piperazine-1,4-dicarboxylic acid 4-benzyloxy-benzyl ester 9H-fluoren-9-ylmethyl ester | 0.5 mmol, 274 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCN(CC1)C(=O)OCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C34H32N2O5
reactant | water | 23 ml | O | H2O
solvent | morpholine | 13 ml | N1CCOCC1 | C4H9NO
product | Piperazine-1-carboxylic acid 4-benzyloxy-benzyl ester | C(C1=CC=CC=C1)OC1=CC=C(COC(=O)N2CCNCC2)C=C1 | C19H22N2O3
